### ISSUE TITLE
`cbv` does not reduce a recursor

### ISSUE THREAD

**Issue by wkrozowski** [leanprover/lean4#12386]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`cbv` tactic gets stuck, while being unable to unfold `Decidable.rec` recursor. 
```lean4
def minFacAux (n : Nat) : Nat → Nat
  | k =>
    if h : n < k * k then n
    else
      if h' : k ∣ n then k
      else
        have : k ≤ n := by have := Nat.le_mul_self k; omega
        minFacAux n (k + 2)
termination_by k => n + 2 - k

def Nat.minFac (n : Nat) : Nat :=
  if 2 ∣ n then 2 else minFacAux n 3

def Nat.log (b n : Nat) : Nat :=
  if b ≤ 1 then 0 else (go b n).2 where
  go : Nat → Nat → Nat × Nat
  | _, 0 => (n, 0)
  | b, fuel + 1 =>
    if n < b then
      (n, 0)
    else
      let (q, e) := go (b * b) fuel
      if q < b then (q, 2 * e) else (q / b, 2 * e + 1)

/--
error: unsolved goals
case a
⊢ Decidable.rec (fun h => false) (fun h => true) instDecidableNot = true
-/
#guard_msgs(error) in
example : ¬∃ k, k ≤ Nat.log 2 15 ∧ 0 < k ∧ 15 = Nat.minFac 15 ^ k := by
  apply of_decide_eq_true
  conv => lhs; cbv
```

### Steps to Reproduce
1. [live.lean-lang.org link](https://live.lean-lang.org/#project=lean-nightly&codez=CYUwZgBAtglgdgMQIYGMCCBXAHhAFHCALggDkkAXASiNIokCTCW8gKAggB8IBrCAXgD5WbCDEgALGgQA83CACpZ5MSAJwhbEABsAziHXDREMQHIaPQMREEAkpXd9GnXuHOjSAG4gzEQCZEVorwgAIwBPVw9/JgA6TRAAfSgMTVjdTUguAG4IAHsoEABzJHthWERUTBwCXB4AaggAJkpmchAAJxKKGCy4WJDZAT9auogAWjtmUEgyckiS5BQ8AmIp6iW6Ql4hQyHLa2UCIa1daHg58r8AZmZx8CjNLLy8QL9Vqhop/03IJ98ARggbAgABggh08uDyWSCVkokSGAHdlC0nBAIW86Ix3hi6AB1phCTixAA0EGB/XwxMBjTYnECxLAGC0EFqfwE+kM0ihAKK5JJVOEoKKMXIeAAjsSQCsAqjcE8FIFqPStEVDCKIDIngDRcShgoJSDHKKIAB6ILa+QgpkQH6NZhG4bDZitFpZFrEDBwbRZTQeYAorJIHTMFBII6FQBFRBAACIgFAwYBIQIxSJI+a4ekECT9MAB3TUNPuox8fj/FoM6jwbTkaOx+OJkAkLLCgLkUt6YZG5gAYjyGCQLWA8W0eW0uCdLvLahAWCQUAADjEaAAawDARNxiTxfFNovd6laAKwQQDkRCS1bJjz8DwEt7NUPuIAA9WTrILBIRIWfz0JZMCxUA1uIgCKsQtgyQgoF0bhFhAmhiNomQoIEbhCMwQA)

**Expected behavior:** The tactic reduces `Decidable.rec` recursor

**Actual behavior:** The tactic gets stuck at `Decidable.rec` recursor

### Versions

4.29.0-nightly-2026-02-08

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
